data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_83326_0,[C:1]([O:4][C:2](=[C:3]([H:9])[H:10])[H:8])([O:5][H:7])=[O:6]>>[C:1](=[O:4])([O:5][H:7])[O:6][C:2](=[C:3]([H:9])[H:10])[H:8],52.43327250002295
MR_7002_0,[C:1](/[C:3]([N:4]([H:6])[H:7])=[C:5](/[C:2]([H:12])([H:13])[H:14])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[N:4]/[H:6])[C:5]([C:2]([H:12])([H:13])[H:14])([H:7])[H:8])([H:9])([H:10])[H:11],67.19709250000442
MR_520342_2,[C:1]1([C:3]([H:17])([H:18])[H:19])([H:10])[N:4]([C:2]([H:14])([H:15])[H:16])[C:5]1([N:6]([H:11])[H:12])[O:8][C:7](=[O:9])[H:13]>>[C:1]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[C:7](=[O:9])[H:13])([C:5]([N:6]([H:11])[H:12])=[O:8])[H:10],31.11396000002415
MR_100914_1,[C:1]([C:3]([N:2]([N:4]([H:9])[H:10])[H:7])=[O:6])([O:5][H:8])([H:11])[H:12]>>[C:1]([C:3]([N:2]([N:4]([H:9])[H:10])[H:8])=[O:6])([O:5][H:7])([H:11])[H:12],56.28926000002522
MR_658666_0,[C:1]([N:2]([O:4][H:8])[O:5][H:9])([N:3]([O:6][H:10])[O:7][H:11])([H:12])[H:13]>>[C:1]([N:2]([N:3]([O:6][H:10])[O:7][H:11])[O:4][H:8])([O:5][H:9])([H:12])[H:13],66.50935249997517
MR_406433_1,[C:1]([N:2]([C:3]([N:5]([H:9])[H:10])=[O:8])[C:4]([N:6]([H:11])[H:12])=[C:7]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:4]([C:3]([N:5]([H:9])[H:10])=[O:8])=[C:7]([H:16])[H:17])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15],55.65297500002657
MR_464971_0,[C:1]([C:6]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:13])=[O:10])([C:7]([C:5]([H:20])([H:21])[H:22])=[C:8]([H:23])[H:24])([O:9][H:11])[H:12]>>[C:1]1([O:9][H:11])([H:12])[C:6]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[H:13])([C:7]([C:5]([H:20])([H:21])[H:22])=[C:8]([H:23])[H:24])[O:10]1,69.81188499998368
MR_188635_1,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])(/[C:6](=[C:5](\[C:3]([H:18])([H:19])[H:20])[O:8][H:9])[N:7]([H:11])[H:12])([H:13])[H:14]>>[C:1](=[C:6]([C:5]([C:3]([H:18])([H:19])[H:20])([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])[O:8][H:9])[N:7]([H:11])[H:12])([H:13])[H:14],66.01362749997833
MR_109157_1,[C:1]1([N:3]([H:8])[H:10])([H:6])[C:2]([N:4]([H:9])[H:11])([H:7])[O:5]1>>[C:1]1([N:3]([H:8])[H:10])([H:7])[C:2]([N:4]([H:9])[H:11])([H:6])[O:5]1,32.29428750000466
MR_113857_1,[C:1]([C:3]([N:5]([H:8])[H:9])=[O:6])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])([H:10])[H:11]>>[C:1](=[C:3]([N:5]([H:8])[H:9])[O:6][C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])([H:10])[H:11],54.44064499998419
MR_288555_2,[N:1](/[N:4]=[C:2](\[O:3][H:5])[H:8])([H:6])[H:7]>>[N:1]([N:4]([C:2](=[O:3])[H:8])[H:7])([H:5])[H:6],42.72772999998665
MR_366411_1,[C:1]([O:6][C:4]1([O:7][C:2]([H:13])([H:14])[H:15])/[C:3](=[N:8]/[H:9])[C:5]1([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:1]([O:6]/[C:3]([C:4](=[C:5]([H:16])[H:17])[O:7][C:2]([H:13])([H:14])[H:15])=[N:8]\[H:9])([H:10])([H:11])[H:12],62.59249749998389
MR_583951_1,[C:1](\[C:2]([H:10])([H:11])[H:12])(=[N:3]\[N:4]([H:8])[H:9])[O:5][O:6][H:7]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([N:3]([N:4]([H:8])[H:9])[H:7])[O:5][O:6]1,36.787187500004
MR_285708_1,[C:1]([N:2]([H:10])[H:11])(/[C:4](=[C:5]([C:3](=[N:7]/[O:6][H:9])/[H:12])\[H:14])[H:13])=[O:8]>>[C:1]([N:2]([H:10])[H:11])([C:4]1([H:13])[C:5]([H:14])=[C:3]([H:12])[N:7]1[O:6][H:9])=[O:8],46.84914999999648
MR_116829_0,[C@:1]([C:2]([H:11])([H:12])[H:13])(/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[O:5][H:8])([O:6][H:9])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](/[C:3]([H:14])([H:15])[H:16])[N:7]([O:5][H:8])[H:10])[O:6][H:9],64.77306000000723
MR_149512_1,[C:1]1([H:10])([H:11])[C:3]2([C:2]([O:6][H:9])=[O:8])[C:5]1([H:13])[C:4]([H:12])=[N:7]2>>[C:1]1([H:10])([H:11])[C:3]([C:2]([O:6][H:9])=[O:8])=[N:7][C:4]([H:12])=[C:5]1[H:13],34.34119249997309
MR_278835_2,[C:1](=[C:2]([N:3]([H:7])[H:8])[C:6]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[H:15])([H:13])[H:14]>>[C:1](/[C:2]([N:3]([H:7])[H:8])=[C:6](/[N:5]([H:11])[H:12])[H:15])([N:4]([H:9])[H:10])([H:13])[H:14],66.24203750000802
MR_265962_0,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])([C:4](=[O:8])[H:11])[O:7][H:10])([O:5][H:9])=[O:6]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[O:8])[H:11])=[O:7])([O:5][H:9])[O:6][H:10],62.38103000001843
MR_179171_0,[C@@:1]1([N:5]([H:9])[H:10])([C:6](=[O:7])[H:11])[C@@:2]([C:4]([H:14])([H:15])[H:16])([H:8])[C:3]1([H:12])[H:13]>>[C:1](=[C:2](/[C:4]([H:14])([H:15])[H:16])[H:8])(\[C:3]([C:6](=[O:7])[H:11])([H:12])[H:13])[N:5]([H:9])[H:10],60.65038500000057
MR_164726_1,[C:1]1([H:10])([H:11])[N:3]([C:2]([H:13])([H:14])[H:15])[O:7][C:6]([H:12])=[C:4]1[N:5]([H:8])[H:9]>>[C:1]1([H:10])([H:11])[N:3]([C:2]([H:13])([H:14])[H:15])[C:4]1([N:5]([H:8])[H:9])[C:6](=[O:7])[H:12],25.09121499999935
MR_43763_1,[C:1](\[C:2]([C:4]([N:5]([H:6])[H:8])([H:10])[H:13])([H:11])[H:12])(=[N:3]/[H:7])[H:9]>>[C:1]([C:2](/[C:4](=[N:5]/[H:8])[H:13])([H:11])[H:12])([N:3]([H:6])[H:7])([H:9])[H:10],60.10696999999929
